US06900215B2
2-Bromo-5-chlorobenzonitrile was coupled with 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane in the same way as Example 1 to give 4-chloro-2′-fluoro-5′-nitrobiphenyl-2-carbonitrile as a grey solid: δH (360 MHz, CDCl3) 7.39-7.43 (1H, m), 7.47-7.64 (1H, m), 7.73 (1H, dd, J 8 and 2), 7.82 (1H, d, J 2), 8.26-8.45 (2H, m).

reactant | 2-Bromo-5-chlorobenzonitrile | BrC1=C(C#N)C=C(C=C1)Cl | C7H3BrClN
reactant | 2-(2-fluoro-5-nitrophenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=C(C=C1)[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H15BFNO4
product | 4-chloro-2′-fluoro-5′-nitrobiphenyl-2-carbonitrile | ClC=1C=C(C(=CC1)C1=C(C=CC(=C1)[N+](=O)[O-])F)C#N | C13H6ClFN2O2
